* source PROJECT01-JANSEN-RAUTENBERG
M_M1         N00144 N00140 0 0 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
V_VGDC         N00140 0 0.5Vdc
V_VDDC         N00144 0 0.5Vdc
