* source LAB3-CASCODE-COMPARISSON
M_M3         N02193 N02193 N01997 N01997 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
V_VDDC1         VOUT 0 3Vdc
M_M1         N01997 N01997 0 0 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
V_VDDC         VCC 0 3.3Vdc
M_M4         VOUT N02193 N00169 N00169 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
I_I1         VCC N02193 DC 10u  
M_M2         N00169 N01997 0 0 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
