* source LAB3-CASCODE-COMPARISSON
M_M1         N01997 N02197 0 0 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
I_I1         VCC N02197 DC 10u  
M_M3         N02197 BIASTOP N01997 N01997 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
M_M2         N00169 N02197 0 0 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
V_VDDC         VCC 0 3.3Vdc
M_M4         VOUTPUT BIASTOP N00169 N00169 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
V_VDCout         VOUTPUT 0 {Vout}
I_I2         VCC BIASTOP DC 10u  
M_M5         BIASTOP BIASTOP N03222 N03222 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
M_M6         N03222 BIASTOP 0 0 nmos_tsmc  
+ L={L_var}  
+ W=450n          
+ M=1
.PARAM  l_var=250n vout=1.5vdc w_var=1u
