* source LAB3-CASCODE-COMPARISSON
M_M3         BIASTOP BIASTOP N01997 N01997 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
V_VDCout         VOUTPUT 0 {Vout}
M_M1         N01997 N01997 0 0 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
V_VDDC         VCC 0 3.3Vdc
M_M4         VOUTPUT BIASTOP N00169 N00169 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
I_I1         VCC BIASTOP DC 10u  
M_M2         N00169 N01997 0 0 nmos_tsmc  
+ L={L_var}  
+ W={W_var}          
+ M=1
.PARAM  l_var=250n vout=1.5vdc w_var=1u
