* source PROJECT01-JANSEN-RAUTENBERG
M_M1         OUT IN 0 0 nmos_tsmc  
+ L=250n  
+ W=1u          
+ M=1
V_VGDC         N00584 0 0.5Vdc
V_VDDC         VCC 0 1.8Vdc
R_R2         OUT VCC  55.97k TC=0,0 
V_V1         IN N00584  AC 10m
+SIN 0 108m 1k 0 0 0
